US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), (R)-tetrahydrofuran-3-ylamine4-methylbenzenesulfonate (143 mg, 552 μmol), diisopropylethylamine (193 μl, 1.1 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 407 μl, 690 μmol) in tetrahydrofurane (7 ml) is refluxed for 18 hours. The solvent is evaporated and to the residue is added sat. aqueous sodium hydrogencarbonate solution. The mixture is stirred for 20 minutes while a white solid precipitates. The solid is collected by filtration, washed with diethylether and dried affording (R)-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-N4-(tetrahydrofuran-3-yl)-1H-pyrazole-4,5-dicarboxamide (114 mg, 95.7%) as a white solid. mp.: >250° C. MS: m/z=432.3 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | diisopropylethylamine | 1.1 mmol, 193 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 690 μmol, 407 μl | CCCP(=O)=O | C3H7O2P
reactant | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | (R)-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-N4-(tetrahydrofuran-3-yl)-1H-pyrazole-4,5-dicarboxamide | 114 mg, 95.7% | CN1N=CC(=C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C(=O)N[C@H]2COCC2 | C22H21N7O3
